US08471005B2
Palladium Acetate (0.029 g, 0.00013 mol) and Triphenylphosphine (0.042 g, 0.00016 mol) were dissolved in Tetrahydrofuran (2.0 mL) and the mixture was allowed to stir at room temperature for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(3-morpholin-4-yl-phenyl)-amine (0.240 g, 0.000641 mol) was then added and the reaction was again allowed to stir for 10 minutes. 3-fluorophenylboronic acid (0.179 g, 0.00128 mol) was added followed by 0.9 M of Sodium carbonate in water (2 mL) and Ethanol (2.0 mL). The reaction mixture was then heated at 80° C. and was allowed to stir overnight. The reaction mixture was poured over saturated sodium chloride, and organics were extracted with ethyl acetate/dichloromethane. Combined organics were dried over sodium sulfate, filtered and reduced en vacuo. The crude mixture was purified by Gilson prep HPLC to afford 40.32 mg of [7-(3-Fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-morpholin-4-yl-phenyl)-amine as a lyophilated powder. (M+H)=390.14. 1H NMR (400 MHz, CDCl3) δ 8.67 (s, 1H), 7.93 (m, 1H), 7.83 (m, 1H), 7.35-7.55 (m, 5H), 7.18 (m, 3H), 6.99 (m, 1H), 3.92 (m, 4H), 3.26 (m, 4H).

reactant | Triphenylphosphine | 0.00016 mol, 0.042 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(3-morpholin-4-yl-phenyl)-amine | 0.000641 mol, 0.240 g | BrC1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCOCC2 | C16H16BrN5O
reactant | 3-fluorophenylboronic acid | 0.00128 mol, 0.179 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | Sodium carbonate | 0.9 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | Tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | Ethanol | 2.0 mL | C(C)O | C2H6O
catalyst | Palladium Acetate | 0.00013 mol, 0.029 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [7-(3-Fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-morpholin-4-yl-phenyl)-amine | 40.32 mg | FC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCOCC2 | C22H20FN5O
